US07795247B2
Step 3: methyl 3-cyclohexyl-2-(2-formylphenyl)-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate in dioxane (0.15 M) were added Na2CO3 (6 eq, 2 M aqueous solution), 1.6 eq of (2-formylphenyl)boronic acid and 0.2 eq of bis(triphenylphosphine)-palladium(II) dichloride. The mixture was heated at reflux for 1 h. The reaction mixture was filtered and the filtrate diluted with EtOAc. The organic phase was washed with brine and dried (Na2SO4) before being filtered and concentrated in vacuo. The crude was purified by flash chromatography (Biotage cartridge Si25M, 1:9 EtOAc/PE) to afford the title compound (40%); MS (ES+) m/z 448 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OC | C20H24BrNO4
reactant | Na2CO3 | 2 M, 6 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (2-formylphenyl)boronic acid | 1.6 eq | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
solvent | dioxane | 0.15 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) dichloride | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-cyclohexyl-2-(2-formylphenyl)-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | 40% | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CCC(=O)OC)C1=C(C=CC=C1)C=O | C27H29NO5
